US08003639B2
(a) 1-(4-chloro-phenylcarbamoyl)-2,5-dihydro-1H-pyrrole-2-carboxylic acid
0.250 g (2.21 mmol) 3,4-dehydro-DL-proline are dissolved in 15 ml of 5% NaHCO3 solution, combined with 0.678 ml (4.42 mmol) 4-chlorophenylisocyanate and stirred for 16 h at 80° C. Then the mixture is cooled, filtered and the residue is washed with water. The filtrate is adjusted to pH 1 with semi-concentrated HCl, extracted 2× with ethyl acetate, dried on sodium sulphate and concentrated i. vac.

reactant | 3,4-dehydro-DL-proline | 2.21 mmol, 0.250 g | C1C=CC(N1)C(=O)O | C5H7NO2
reactant | 4-chlorophenylisocyanate | 4.42 mmol, 0.678 ml | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | NaHCO3 | 15 ml | C(=O)(O)[O-].[Na+]
product | 1-(4-chloro-phenylcarbamoyl)-2,5-dihydro-1H-pyrrole-2-carboxylic acid | ClC1=CC=C(C=C1)NC(=O)N1C(C=CC1)C(=O)O | C12H11ClN2O3
